* C:\Users\alumn\Desktop\AudioAmpli\Design\OPAMP supply\LowVoltageSupplyZenerApproach.asc
V1 N001 0 37
R1 N002 N001 2.2k
C1 N002 0 100µ
XD1 0 N002 SMAZ15
R§OPAMPs N003 0 1500
.tran 0 500m 1m uic
.inc SMAZ15.spice.txt
.backanno
.end
